US07342115B2
Dess-Martin reagent (170 mg, 0.4 mmol) is added to a solution of 1-[2-(4-cylopentyloxy-6-methyl-5-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-2-yl)-6-fluoro-pheny]-propan-1-ol (160 mg, 0.32 mmol) in DCM (4 mL) at room temperature and the resulting mixture is stirred for 2 hours. Saturated Na2S2O3 is added to the mixture and stirred for 10 minutes. The organic layer is separated and extracted with DCM (2×10 mL). The combined organic layers are dried and solvent is removed in vacuo to give 1-[2-(4-cylopentyloxy-6-methyl-5-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-2-yl)-6-fluoro-pheny]-propan-1-one which is used in the next step without further purification.

reactant | Dess-Martin reagent | 0.4 mmol, 170 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1-[2-(4-cylopentyloxy-6-methyl-5-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-2-yl)-6-fluoro-pheny]-propan-1-ol | 0.32 mmol, 160 mg | C1(CCCC1)OC1=CC(=NC(=C1CN(C1CCCC2=CC=CC=C12)C)C)C1=C(C(=CC=C1)F)C(CC)O | C32H39FN2O2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-cylopentyloxy-6-methyl-5-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-2-yl)-6-fluoro-pheny]-propan-1-one | C1(CCCC1)OC1=CC(=NC(=C1CN(C1CCCC2=CC=CC=C12)C)C)C1=C(C(=CC=C1)F)C(CC)=O | C32H37FN2O2
